US08461348B2
3-bromo-2-methyl-5-[3-(trifluoromethyl)phenyl]thiophene
Under a nitrogen atmosphere, a mixture of 3,5-dibromo-2-methylthiophene (2.00 g), 3-(trifluoromethyl)phenylboronic acid (2.23 g), tetrakis(triphenylphosphine)palladium (0.45 g), cesium carbonate (5.09 g) and tetrahydrofuran (40 mL) was heated under reflux for 16 hr. The reaction mixture was cooled, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give the title compound (2.15 g) as a solid.

reactant | 3,5-dibromo-2-methylthiophene | 2.00 g | BrC1=C(SC(=C1)Br)C | C5H4Br2S
reactant | 3-(trifluoromethyl)phenylboronic acid | 2.23 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | cesium carbonate | 5.09 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.45 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 3-bromo-2-methyl-5-[3-(trifluoromethyl)phenyl]thiophene | 2.15 g | BrC1=C(SC(=C1)C1=CC(=CC=C1)C(F)(F)F)C | C12H8BrF3S
